US07320993B1
8,8-diphenyloctylamine
Batch size: 18.5 g (45.0 mmol) 2-(8,8-diphenyl-octyl)-iso-indol-1,3-dione and 8.0 ml (160 mmol) hydrazine.hydrate in ethanol.

reactant | 2-(8,8-diphenyl-octyl)-iso-indol-1,3-dione | 45.0 mmol, 18.5 g | C1(=CC=CC=C1)C(CCCCCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H29NO2
reactant | hydrazine.hydrate | 160 mmol, 8.0 ml | NN.O
solvent | ethanol | C(C)O | C2H6O
product | 8,8-diphenyloctylamine | C1(=CC=CC=C1)C(CCCCCCCN)C1=CC=CC=C1 | C20H27N
